US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (52.4 mg) was reacted with N-(4-bromophenyl)-N-phenylpyrimidin-2-amine (56.6 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(phenyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (40.0 mg). Column chromatography (silica gel, eluent: chloroform/cyclohexane=1/1→chloroform) and thin layer chromatography (silica gel, developing solvent: cyclohexane/ethyl acetate=1/2) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 52.4 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-bromophenyl)-N-phenylpyrimidin-2-amine | 56.6 mg | BrC1=CC=C(C=C1)N(C1=NC=CC=N1)C1=CC=CC=C1 | C16H12BrN3
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(phenyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 40.0 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)C1=CC=CC=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C29H24Cl2N4O3
